CIRCUIT C:\Documents and Settings\Administrator\My Documents\microwind2\Book on CMOS\adc.msk
*
* IC Technology: CMOS 0.12µm - 6 Metal
*
VDD 1 0 DC 1.20
V30_VBias 30 0 DC 0.60V
*
* List of nodes
* "N2" corresponds to n°2
* "A[0]" corresponds to n°5
* "N6" corresponds to n°6
* "A[1]" corresponds to n°7
* "N8" corresponds to n°8
* "N9" corresponds to n°9
* "C2" corresponds to n°10
* "C1" corresponds to n°11
* "C0" corresponds to n°12
* "Vin" corresponds to n°26
* "Vref0" corresponds to n°27
* "Vref1" corresponds to n°28
* "Vref2" corresponds to n°29
* "VBias" corresponds to n°30
*
* MOS devices
MN1 23 29 16 0 N1  W= 0.36U L= 0.12U
MN2 0 11 8 0 N1  W= 0.36U L= 0.12U
MN3 7 8 0 0 N1  W= 0.66U L= 0.12U
MN4 0 10 9 0 N1  W= 0.36U L= 0.12U
MN5 9 8 22 0 N1  W= 0.36U L= 0.12U
MN6 22 12 0 0 N1  W= 0.36U L= 0.12U
MN7 5 9 0 0 N1  W= 0.72U L= 0.12U
MN8 17 26 23 0 N1  W= 0.36U L= 0.12U
MN9 0 13 10 0 N1  W= 0.36U L= 0.12U
MN10 13 13 0 0 N1  W= 0.36U L= 0.12U
MN11 24 28 18 0 N1  W= 0.36U L= 0.12U
MN12 19 26 24 0 N1  W= 0.36U L= 0.12U
MN13 0 14 11 0 N1  W= 0.36U L= 0.12U
MN14 14 14 0 0 N1  W= 0.36U L= 0.12U
MN15 25 27 20 0 N1  W= 0.36U L= 0.12U
MN16 21 26 25 0 N1  W= 0.36U L= 0.12U
MN17 0 15 12 0 N1  W= 0.36U L= 0.12U
MN18 15 15 0 0 N1  W= 0.36U L= 0.12U
MN19 0 30 23 0 N1  W= 1.08U L= 0.12U
MN20 0 30 24 0 N1  W= 1.08U L= 0.12U
MN21 0 30 25 0 N1  W= 1.08U L= 0.12U
MP1 9 12 6 1 P1  W= 0.60U L= 0.12U
MP2 6 8 9 1 P1  W= 0.60U L= 0.12U
MP3 1 10 6 1 P1  W= 0.60U L= 0.12U
MP4 1 11 8 1 P1  W= 0.60U L= 0.12U
MP5 1 9 5 1 P1  W= 0.84U L= 0.12U
MP6 1 8 7 1 P1  W= 0.96U L= 0.12U
MP7 1 16 16 1 P1  W= 0.60U L= 0.12U
MP8 13 16 1 1 P1  W= 0.60U L= 0.12U
MP9 1 17 17 1 P1  W= 0.60U L= 0.12U
MP10 1 17 10 1 P1  W= 0.60U L= 0.12U
MP11 1 18 18 1 P1  W= 0.60U L= 0.12U
MP12 14 18 1 1 P1  W= 0.60U L= 0.12U
MP13 1 19 19 1 P1  W= 0.60U L= 0.12U
MP14 1 19 11 1 P1  W= 0.60U L= 0.12U
MP15 1 20 20 1 P1  W= 0.60U L= 0.12U
MP16 15 20 1 1 P1  W= 0.60U L= 0.12U
MP17 1 21 21 1 P1  W= 0.60U L= 0.12U
MP18 1 21 12 1 P1  W= 0.60U L= 0.12U
*
C3 1 0 22.007fF
C5 5 0  0.933fF
C6 6 0  0.562fF
C7 7 0  0.799fF
C8 8 0  0.984fF
C9 9 0  0.731fF
C10 10 0  1.003fF
C11 11 0  0.934fF
C12 12 0  1.785fF
C13 13 0  1.046fF
C14 14 0  1.046fF
C15 15 0  1.015fF
C16 16 0  0.631fF
C17 17 0  0.667fF
C18 18 0  0.631fF
C19 19 0  0.667fF
C20 20 0  0.631fF
C21 21 0  0.667fF
C22 22 0  0.144fF
C23 23 0  0.536fF
C24 24 0  0.536fF
C25 25 0  0.536fF
C26 26 0  2.118fF
C27 27 0  1.503fF
C28 28 0  1.400fF
C29 29 0  1.230fF
C30 30 0  1.529fF
*
* Extra RLC
*
Radd1 1 29 2631
Radd2 28 29 2455
Radd3 27 28 3591
Radd4 0 27 4447
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.40 U0=0.060 TOX= 2.0E-9
+LD =0.000U THETA=0.500 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=120.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.45 U0=0.020 TOX= 2.0E-9
+LD =0.000U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.060 VMAX=110.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.30PS 10.00N
.PROBE
.END
